US04264605
2-AMINO-5-(4-CHLOROPHENYLTHIO)PYRIDINE
2-Amino-5-bromopyridine (7.8 grams), 4-chlorothiophenol (9.2 grams), sodium methoxide (3.5 grams), and copper powder (1.0 gram) were reacted in 100 ml. of methanol, for 12 hours, in a bomb, in accordance with the procedures of J. Med. Chem. 21, 235 (1978). The reaction mixture was filtered, washed with methanol, and methanol removed by evaporation. The methanol washes were combined with ethyl acetate extracts of solids made after refluxing on a steam bath for one hour. Solvents were removed and the solids dissolved in ethyl acetate and filtered to remove insolubles. The liquid was passed over a silica column with ethyl acetate, and the fraction corresponding to the product amine (Rf ≅0.2) collected., yield 6.5 grams, m.p., 161°-163° C.

reactant | 2-Amino-5-bromopyridine | 7.8 grams | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-chlorothiophenol | 9.2 grams | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium methoxide | 3.5 grams | C[O-].[Na+]
catalyst | copper | 1.0 gram | [Cu] | Cu
solvent | methanol | CO | CH4O
product | 2-AMINO-5-(4-CHLOROPHENYLTHIO)PYRIDINE | NC1=NC=C(C=C1)SC1=CC=C(C=C1)Cl | C11H9ClN2S
